data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
1346,1476,[CH3:13][O:14][C:15](=[O:16])[N-:17][O+:18]=[N:19][c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1.[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH:9]3[CH:10]([CH:11]1[O:12]2)[N:17]([C:15]([O:14][CH3:13])=[O:16])[O:18][N:19]3[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1,water,298.15,16.822846095955345,-54.21696683300926
293,317,[CH3:9][O:10][C:11](=[O:12])[CH:13]=[NH+:14][N-:15][C:16]([CH3:17])=[O:18].[Cl:1][C:2]1=[CH:3][CH:4]2[CH:5]=[CH:6][CH:7]1[O:8]2>>[Cl:1][C:2]12[CH:3]([CH:4]3[CH:5]=[CH:6][CH:7]1[O:8]3)[CH:13]([C:11]([O:10][CH3:9])=[O:12])[NH:14][N:15]2[C:16]([CH3:17])=[O:18],water,298.15,22.49189892489856,-33.22674574092794
4719,5387,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[C-:15]([NH+:16]=[C:17]([CH3:18])[CH3:19])[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:17]([CH3:18])([CH3:19])[NH:16][C:15]2([C:13]([NH:12][CH3:11])=[O:14])[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1,water,298.15,24.53984098782837,-22.61994857950747
5194,5893,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][NH:16][C:17](=[O:18])[C:19]([C:20]#[N:21])=[N+:22]([CH3:23])[C-:24]([CH3:25])[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[C:24]([CH3:25])([c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1)[N:22]([CH3:23])[C:19]2([C:17]([NH:16][CH3:15])=[O:18])[C:20]#[N:21],water,298.15,40.322234025824656,3.759898139464185
669,729,[CH3:1][O:2][C:3]#[C:4][Br:5].[CH3:6][O:7][C:8](=[O:9])[C:10]#[N+:11][C-:12]([CH3:13])[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1>>[CH3:1][O:2][C:3]1=[C:4]([Br:5])[C:10]([C:8]([O:7][CH3:6])=[O:9])=[N:11][C:12]1([CH3:13])[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1,water,298.15,18.821299398936823,-74.16007894153367
277,301,[CH:10]#[N+:11][C-:12]([C:13]#[N:14])[C:15]([CH3:16])=[O:17].[Cl:1][C:2]1=[C:3]([Cl:4])[CH:5]2[CH2:6][CH2:7][CH:8]1[CH2:9]2>>[Cl:1][C:2]12[C:3]([Cl:4])([CH:5]3[CH2:6][CH2:7][CH:8]1[CH2:9]3)[C:12]([C:13]#[N:14])([C:15]([CH3:16])=[O:17])[N:11]=[CH:10]2,water,298.15,18.30387048156848,-32.10652064933271
4483,5116,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[C:15](=[NH+:16][C-:17]([C:18]#[N:19])[C:20]#[N:21])[C:22]([CH3:23])=[O:24]>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:15]([C:13]([NH:12][CH3:11])=[O:14])([C:22]([CH3:23])=[O:24])[NH:16][C:17]2([C:18]#[N:19])[C:20]#[N:21],water,298.15,22.06389143595088,-11.568806841104774
2062,2289,[CH3:15][C-:16]([O+:17]=[CH:18][c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1)[c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1.[CH3:1][O:2]/[C:3](=[C:4](/[O:5][CH3:6])[C:7]([F:8])([F:9])[F:10])[C:11]([F:12])([F:13])[F:14]>>[CH3:1][O:2][C@:3]1([C:11]([F:12])([F:13])[F:14])[C@:4]([O:5][CH3:6])([C:7]([F:8])([F:9])[F:10])[C:16]([CH3:15])([c:25]2[cH:26][cH:27][cH:28][cH:29][cH:30]2)[O:17][CH:18]1[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1,water,298.15,10.879312076570566,-29.7352766507366
1893,2098,[CH3:18][NH:19][C:20](=[O:21])[C-:22]([N+:23]#[N:24])[c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1.[F:1][C:2]([F:3])([F:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:13]2[CH2:14][CH2:15][CH:16]1[CH2:17]2>>[F:1][C:2]([F:3])([F:4])[C:5]12[C:6]([c:7]3[cH:8][cH:9][cH:10][cH:11][cH:12]3)([CH:13]3[CH2:14][CH2:15][CH:16]1[CH2:17]3)[N:24]=[N:23][C:22]2([C:20]([NH:19][CH3:18])=[O:21])[c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1,water,298.15,35.21215499431707,7.066211303609456
3240,3659,[CH3:6][CH-:7][O+:8]=[C:9]([CH3:10])[c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1.[NH2+:1]=[C:2]([NH2:3])[NH:4][CH3:5]>>[NH2+:1]1[C:2]([NH2:3])([NH:4][CH3:5])[C:9]([CH3:10])([c:11]2[cH:12][cH:13][cH:14][cH:15][cH:16]2)[O:8][CH:7]1[CH3:6],water,298.15,20.843292610455567,-13.559002764186893
2494,2771,[CH3:13][O:14][C:15](=[O:16])[C-:17]([C:18]([CH3:19])=[O:20])[N+:21]([CH3:22])=[C:23]([C:24]([CH3:25])=[O:26])[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1.[CH3:1][O:2][C:3](=[O:4])/[C:5]([Cl:6])=[C:7](/[Cl:8])[C:9](=[O:10])[O:11][CH3:12]>>[CH3:1][O:2][C:3](=[O:4])[C@:5]1([Cl:6])[C@:7]([Cl:8])([C:9](=[O:10])[O:11][CH3:12])[C:17]([C:15]([O:14][CH3:13])=[O:16])([C:18]([CH3:19])=[O:20])[N:21]([CH3:22])[C:23]1([C:24]([CH3:25])=[O:26])[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1,water,298.15,50.89143538785203,8.645836275669442
